US07402608B2
To a solution of 3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-methyl-ethylamino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (1.08 g, 2.69 mmol) in MeOH (10 ml) at 21°, under N2 was added a solution of acetylchloride premixed in MeOH (100 μL/1 mL, 210 μL 2.96 mmol, 1.1 eq). The reaction was followed by tlc. On completion the reaction was stripped-off solvent and the residue purified over silica using progressively 5%, 20%, and then 30% EtOAc/Hexane as eluent to give 3-(2-Hydroxy-1-methyl-ethylamino)-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester as a yellow solid (518 mg, 79%); 1H NMR (300 MHz, CDCl3) 1.25 (d, 6.6 Hz, 3H), 3.52-3.62 (m,1H), 3.73-3.77 (m, 2H), 3.84 (s, 3H), 6.92 (s, 1H), 7.36-7.42 (m, 3H), 3.62 (d, J=8.3 Hz, 2H).

reactant | 3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-methyl-ethylamino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 2.69 mmol, 1.08 g | COC(=O)C=1SC(=CC1NC(CO[Si](C)(C)C(C)(C)C)C)C1=CC=CC=C1 | C21H31NO3SSi
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 2.96 mmol, 100 μL, 1.1 eq | CO | CH4O
product | 3-(2-Hydroxy-1-methyl-ethylamino)-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester | 518 mg, 79% | COC(=O)C=1SC(=CC1NC(CO)C)C(=CC=CC=C)C | C16H21NO3S
